US08242117B2
A. 3-(5-Amino-4-cyano-pyrazol-1-yl)-N-cyclopropyl-4-methylbenzamide
DIPEA (3.4 g, 26.5 mmol) was added to the solution of N-cyclopropyl-3-hydrazino-4-methyl-benzamide trifluoroacetate (8.45 g, 26.5 mmol) and 2-ethoxymethylene malononitrile (3.2 g, 26.5 mmol) in EtOH (100 mL) and stirred at 65° C. for 3 h. The solvent was removed the residue was suspended in EtOAc (˜100 mL), and water was added to this suspension. The solid product was filtered. The filtrate was washed by water, brine, dried over Na2SO4, concentrated, and purified by column chromatography on silica gel eluted with EtOAc. The product, combined from filtration and chromatography, was obtained as a beige solid (7.1 g, 96%).

reactant | DIPEA | 26.5 mmol, 3.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | N-cyclopropyl-3-hydrazino-4-methyl-benzamide trifluoroacetate | 26.5 mmol, 8.45 g | FC(C(=O)O)(F)F.C1(CC1)NC(C1=CC(=C(C=C1)C)NN)=O
reactant | 2-ethoxymethylene malononitrile | 26.5 mmol, 3.2 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(5-Amino-4-cyano-pyrazol-1-yl)-N-cyclopropyl-4-methylbenzamide | 7.1 g, 96% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
